US07842713B2
Preparation of Intermediate 276a: 4-Iodo-N,N-dimethylbenzamide
A solution of 4-iodobenzoic acid (2.0 g, 8.0 mmol), HATU (4.6 g, 12.0 mmol) and DIPEA (1.6 g, 12.0 mmol) in DMF (30 mL) was stirred for 1 h. Then, dimethylamine hydrochloride (0.98 mg, 12.0 mmol) was added. The resulting solution was stirred overnight. The reaction was monitored by TLC (petroleum ether/EtOAc 2:1). The reaction mixture was poured into water (30 mL) and extracted with EtOAc (40 mL×3). The organic layer was washed with brine (20 mL×2), dried over Na2SO4 and concentrated. The product was purified by silica gel column chromatography using petroleum ether/EtOAc (4:1) to afford the desired compound (1.5 g, 60%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 7.75 (d, 2H), 7.16 (d, 2H), 3.15-2.97 (d, 6H).

reactant | 4-iodobenzoic acid | 8.0 mmol, 2.0 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | HATU | 12.0 mmol, 4.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 12.0 mmol, 1.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylamine hydrochloride | 12.0 mmol, 0.98 mg | Cl.CNC
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 4-Iodo-N,N-dimethylbenzamide | 1.5 g, 60% | IC1=CC=C(C(=O)N(C)C)C=C1 | C9H10INO
